US06949648B2
Ethyl 5-amino-1-(2-pyridinyl)-1H-pyrazole-3-carboxylate
To diethyl ether (200 mL), was added a 20% sodium ethoxide ethanol solution (280 g, 820 mmol) at 0° C., and subsequently was added dropwise diethyl oxalate (19.8 g, 400 mmol), and the mixture was stirred at the same temperature for 30 minutes. To the solution, was added dropwise a solution of acetonitrile (21 mL, 400 mmol) in diethylether (20 mL), and the mixture was allowed to warm to room temperature and stirred at the same temperature for 24 hours. The resulting crystals were collected by filtration. The crystals were suspended in chloroform (400 mL), to which a solution of 2-hydrazinopyridine (34.3 g, 314 mmol) and conc. sulfuric acid (16.7 mL, 314 mmol) in water (300 mL) was added dropwise at room temperature, and the mixture was stirred at the same temperature for 72 hours. The organic layer was separated and the aqueous layer was extracted with chloroform. The organic layers were combined, washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=3:1 to 1:1) to give the title compound (30.0 g, 45% yield).

reactant | sodium ethoxide ethanol | 820 mmol, 280 g | C(C)O.[O-]CC.[Na+]
reactant | diethyl oxalate | 400 mmol, 19.8 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | acetonitrile | 400 mmol, 21 mL | C(C)#N | C2H3N
reactant | 2-hydrazinopyridine | 314 mmol, 34.3 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | sulfuric acid | 314 mmol, 16.7 mL | S(O)(O)(=O)=O | H2O4S
solvent | diethylether | 20 mL | C(C)OCC | C4H10O
solvent | water | 300 mL | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | Ethyl 5-amino-1-(2-pyridinyl)-1H-pyrazole-3-carboxylate | 30.0 g, 45% yield | NC1=CC(=NN1C1=NC=CC=C1)C(=O)OCC | C11H12N4O2
